US04067723
2,3-Dihydro-6-(2-methylbenzyl)pyridaz-3-one (prepared as described above; 36 g.) and phosphorus oxychloride (120 ml.) were heated together on a steam bath to 90° C. The dark red solution thus obtained was immediately cooled to 10°-15° C., diluted with acetone (125 ml.) and added to a stirred solution of acetone and aqueous ammonium hydroxide solution (s.g. 0.880) (1:1; 1000 ml.) maintained at a temperature of from 0° to 20° C. by strong cooling. The mixture was then diluted with water (1000 ml.). A light brown coloured solid was precipitated, filtered off, dried and dissolved in toluene (200 ml.). The toluene solution was filtered and the filtrate evaporated to dryness to give 3-chloro-6-(2-methylbenzyl)pyridazine (34 g.) in the form of an off-white coloured solid, m.p. 73.5° C.

reactant | 2,3-Dihydro-6-(2-methylbenzyl)pyridaz-3-one | 36 g | CC1=C(CC=2C=CC(NN2)=O)C=CC=C1 | C12H12N2O
reactant | phosphorus oxychloride | 120 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | 1000 ml | [OH-].[NH4+]
solvent | acetone | 125 ml | CC(=O)C | C3H6O
solvent | water | 1000 ml | O | H2O
product | 3-chloro-6-(2-methylbenzyl)pyridazine | 34 g | ClC=1N=NC(=CC1)CC1=C(C=CC=C1)C | C12H11ClN2
